US06335459B1
[9-Borabicyclo[3.3.1]nonane dimer] (13.4 mL, 6.68 mmol) (9-BBN dimer) was added to a solution of methyl-3-butenoate (0.71 mL, 6.68 mmol) in tetrahydrofuran (2.7 mL) at 0-5° C. under an argon atmosphere, and the mixture was stirred for 4 hours. N,N-Dimethylformamide (27 mL), palladium(II) chloride, dichloromethane (130 g, 0.16 mmol), 1,3-dibromobenzene (0.77 mL, 61.37 mmol) and potassium phosphate (powdered, 1.5 g, 6.94 mmol) were added. The mixture was treated at 50° C. overnight. Water was added and the mixture extracted with diethyl ether. The extract was washed with water, brine, and dried over sodium sulfate, and concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate) gave 4-(3-bromophenyl)butyric acid methyl ester as a clear oil (0.26 mg, 16%).

reactant | 9-Borabicyclo[3.3.1]nonane dimer | B1(C2CCCC1CCC2)B3C4CCCC3CCC4 | C16H28B2
reactant | 9-BBN dimer | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | methyl-3-butenoate | 6.68 mmol, 0.71 mL | COC(CC=C)=O | C5H8O2
reactant | dichloromethane | 0.16 mmol, 130 g | ClCCl | CH2Cl2
reactant | 1,3-dibromobenzene | 61.37 mmol, 0.77 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium phosphate | 6.94 mmol, 1.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
catalyst | palladium(II) chloride | [Pd](Cl)Cl
solvent | Water | O | H2O
solvent | N,N-Dimethylformamide | 27 mL | CN(C=O)C | C3H7NO
product | 4-(3-bromophenyl)butyric acid methyl ester | 0.26 mg, 16% | COC(CCCC1=CC(=CC=C1)Br)=O | C11H13BrO2
